.SUBCKT LT1225     3 2 7 4 6 
* INPUT
RC1 7  80 9.9909E+02
RC2 7  90 9.9909E+02
Q1  80 2  10 QM1 
Q2  90 3  11 QM2 
CIN 2  3  2.0000E-12
C1  80 90 0.265E-12
*INPUT POLE AT 300MHZ
RE1 10 12 263
RE2 11 12 263
*	RE1, RE2 REDUCED VS LT1224 TO REFLECT HIGHER GM
IEE 12 4  1.4240E-03
RE  12 0  1.4045E+05
* INTERMEDIATE
GCM 8  0  12 0  1.0009E-08
GA  8  0  90 80 1.0009E-3
R2  8  0  7.0E+06
C2  8  0  3.11E-12
*POLE AT 180MHZ
GX1 0  28 8  0  1E-06
RX1 28 0  1E+06
CX1 28 0  0.885E-15
*POLE AT 180MHZ
GX2 0  38 28 0  1E-06
RX2 38 0  1E+06
CX2 38 0  0.885E-15
*POLE AT 180MHZ
GX3 0  48 38 0  1E-06
RX3 48 0  1E+06
CX3 48 0  0.885E-15  
*ZERO AT 60MHZ
GX4 0  58 48 0  1E-06
RX4 58 59 1E+06
LX4 59 0  2.65E-03
*POLE AT 180MHZ
GX5 0  68 58 0  1E-06
RX5 68 0 1E+06
CX5 68 0 .885E-15
*POLE AT 180MHZ
GX6 0  78 68 0  1E-06
RX6 78 0  1E+06
CX6 78 0  .885E-15
*
GB  0  1  78 0  20.4E-03
RO2 1  0  49
RF  8  99 2400
CF  99 6  5E-12
* OUTPUT 
RSO 1  6  1.0000E+00
ECL 18 0  1  6  2.3987E+01
GCL 8  0  20 0  1.0000E+00
RCL 20 0  1.0000E+01
D1  18 19 DM1  
VOD1 19 20 5.9605E-08
D2  20 21 DM1  
VOD2 21 18 5.9605E-08
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 8  0  70 7  1.0000E+00
VC  13 6  2.7909E+00
RPLA 7  70 1.0000E+01
RPLB 7  131 1.0000E+03
D4A 60 141 DM3 
D4B 141 14  DM3 
GNL 8  0  60 4  1.0000E+00
VE  6  14 3.1909E+00
RNLA 60 4  1.0000E+01
RNLB 141 4  1.0000E+03
* 
IP  7  4  5.5760E-03
DSUB 4  7  DM2  
* MODELS 
.MODEL QM1 NPN (IS=8.0000E-16 BF=1.7481E+02)
.MODEL QM2 NPN (IS=8.1240E-16 BF=1.7924E+02)
.MODEL DM1  D   (IS=1.0000E-20)
.MODEL DM2  D   (IS=8.0000E-16 BV=4.3200E+01)
.MODEL DM3  D   (IS=1.0000E-16)
.ENDS LT1225
